### ISSUE TITLE
Why does rw fail to rewrite a pattern inside an exists statement?

### ISSUE THREAD

**Issue by yuxiliu-anu** [semorrison/2017-summer-students#18]
```
inductive xnat 
| zero : xnat
| succ : xnat → xnat

namespace xnat
def one := succ zero
def two := succ one

def add : xnat → xnat → xnat
| x zero := x
| x (succ y) := succ (add x y)
notation a + b := add a b
theorem add_zero (x : xnat) : x + zero = x := by refl

theorem zero_add (n : xnat) : zero + n = n :=
begin
  induction n with t Ht,
  refl,
  unfold add,
  rw Ht
end

def less : xnat → xnat → Prop 
| zero zero := false
| (succ m) zero := false
| zero (succ p) := true 
| (succ m) (succ p) := less m p
notation a < b := less a b

theorem a_less_b_iff_add (a b : xnat) : a < b ↔ ∃ t : xnat, b = a + succ t :=
begin
  constructor,
  intro halb,
  induction a with a Ha,
    rw zero_add,
```
gives error:
```
rewrite tactic failed, did not find instance of the pattern in the target expression
  zero + ?m_1
state:
b : xnat,
halb : zero < b
⊢ ∃ (t : xnat), b = zero + succ t
```

**Comment by yuxiliu-anu** [comment]
I had to use
```
  induction a with a Ha,
    suffices : ∃ (t : xnat), b = succ t,
      cases this,
      existsi a,
      rw zero_add,
      assumption,
```
to get it done.

**Comment by semorrison** [comment]
Sorry to take so long to get to this one. I just committed three different approaches to this one.

1. https://github.com/semorrison/2017-summer-students/blob/master/Scott/20171216-issue-18.lean
Just use `existsi` to indicate what you want to use for the existence statement, and do the rewrite afterwards, when it isn't a problem.
2. https://github.com/semorrison/2017-summer-students/blob/master/Scott/20171216-issue-18.1.lean 
Mark `zero_add` with the `@[simp]` attribute when you declare it, and then just use the `simp` tactic, which is smart enough to work inside the binder, even if `rw` isn't.
3. https://github.com/semorrison/2017-summer-students/blob/master/Scott/20171216-issue-18.2.lean 
Use the `conv` tactic, as discussed in https://github.com/semorrison/2017-summer-students/issues/29
